US06252070B1
d. Preparation of 1-(6-bromo-4-ethyl-benzo[1,3]dioxole
To a 250-mL flask was added 1-(6-bromo-benzo[1,3]dioxol4-yl)-ethanol (9.3 g, 37.9 mmol) was added. The solid was cooled to −50° C. and trifluoroacetic acid (44 mL, 568 mmol) was added. Followed addition of triethylsilane (60.5 mL, 379 mmol). The mixture was stirred at reflux for 5 hours, and evaporated in vacuo to an oil. The oil was distilled twice, collecting the fraction boiling between 80° C. and 110° C. at 1.5 mm Hg. The oil was chromatographed on 100 g silica gel, eluted with 5:95 ethyl acetate/hexane. Evaporation of the appropriate fractions gave a clear oil, 6.56 g, 75.6% yield. NMR spectra and elemental analysis were consistent with the structure.

reactant | 1-(6-bromo-benzo[1,3]dioxol4-yl)-ethanol | 37.9 mmol, 9.3 g | BrC=1C=C(C2=C(OCO2)C1)C(C)O | C9H9BrO3
reactant | trifluoroacetic acid | 568 mmol, 44 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 379 mmol, 60.5 mL | C(C)[SiH](CC)CC | C6H16Si
product | 6-bromo-4-ethyl-benzo[1,3]dioxole | 75.6% yield | BrC=1C=C(C2=C(OCO2)C1)CC | C9H9BrO2
